US07727985B2
N-(6-chloro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide (125 mg, 0.4 mmol, 1 equiv.) was dissolved in 2 ml TFA and NaNO2 (541 mg, 7.84 mmol, 2 equiv.) was added in one portion. The solution was stirred at room temperature for 4 hr. Volatiles were removed by rotovap, and the resulting oily orange solids were suspended in water, neutralized with a saturated aqueous sodium bicarbonate solution and filtered to give 132 mg (92%) of N-(6-chloro-8-nitro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide.

reactant | N-(6-chloro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide | 0.4 mmol, 125 mg, 1 equiv. | ClC=1C=C2C=3C(=CN=CC3NC2=CC1)NC(C(F)(F)F)=O | C13H7ClF3N3O
reactant | NaNO2 | 7.84 mmol, 541 mg, 2 equiv. | N(=O)[O-].[Na+]
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(6-chloro-8-nitro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide | 132 mg, 92% | ClC=1C=C2C=3C(=CN=CC3NC2=C(C1)[N+](=O)[O-])NC(C(F)(F)F)=O | C13H6ClF3N4O3
